US08802659B2
methyl 1-((6-hydroxynaphthalen-2-yl)methyl)azetidine-3-carboxylate
To a solution of methyl 1-((6-(tert-butyldimethylsilyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylate (4.5 g, 11.7 mmol) in methanol (50 mL) at 0° C. was added con. HCl (5 mL) dropwise. The reaction mixture was stirred at r.t for 1 h. The mixture was neutralized by sat. NaHCO3 and evaporated off most of solvent, extracted with DCM and washed with brine, dried over Na2SO4 and concentrated to obtain crude product. The crude product was purified by silica gel chromatography (DCM:MeOH=40:1), extracted with DCM and washed with brine, dried over Na2SO4 and concentrated to obtain crude product. The crude product was purified by silica gel chromatography (DCM:MeOH=40:1) to give the title compound (1.5 g, 47%) as a gray solid. ESI-MS (M+1)+: 272.0. 1H NMR (400 MHz, CDCl3) δ: 8.14 (s, 1H), 7.59-7.52 (m, 2H), 7.39-7.28 (m, 2H), 7.09-7.04 (m, 2H), 3.92 (s, 2H), 3.86-3.82 (m, 2H), 3.70 (s, 3H), 3.63-3.59 (m, 2H), 3.52-3.46 (m, 1H).

reactant | methyl 1-((6-(tert-butyldimethylsilyloxy)naphthalen-2-yl)methyl)azetidine-3-carboxylate | 11.7 mmol, 4.5 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC | C22H31NO3Si
reactant | HCl | 5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | methyl 1-((6-hydroxynaphthalen-2-yl)methyl)azetidine-3-carboxylate | 1.5 g, 47% | OC=1C=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC | C16H17NO3
